US04127587
D. 7-chloro-2-methyl-5-phenyl-5H-[1,2,4]-triazolo[5,1-a]isoindol-5-amine
2.0 g (10.3 mmol) of 3-(4-Chlorophenyl)-5-methyl-1,2,4-triazole is dissolved in 50 ml of tetrahydrofuran (THF) (freshly distilled from lithium aluminum hydride) mechanically stirred in a 250 ml round-bottom 3-necked flask equipped with a septum and nitrogen inlet and cooled in an ice bath. 13.6 ml (22.7 mmol) of n-butyllithium (1.67 mol/liter in hexane) is injected with a syringe and the mixture is stirred in the ice bath for 30 minutes. 2.12 g (20.6 mmol) of benzonitrile is added in a little THF. After stirring for 30 minutes in the ice bath and for 30 minutes at room temperature, the mixture is poured into a chilled stirred mixture of 100 ml of 2.5 M ammonium chloride and 200 ml of chloroform. The layers are separated and the aqueous layer washed with chloroform. The combined chloroform layers are washed with water and dried (Na2SO4). The chloroform is removed under vacuum and the residue is recrystallized from toluene to yield 1.5 g of the title compound, m.p. 173°-175°.

reactant | 3-(4-Chlorophenyl)-5-methyl-1,2,4-triazole | 10.3 mmol, 2.0 g | ClC1=CC=C(C=C1)C1=NNC(=N1)C | C9H8ClN3
reactant | n-butyllithium | 22.7 mmol, 1.67 mol/liter, 13.6 ml | C(CCC)[Li]
reactant | benzonitrile | 20.6 mmol, 2.12 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | ammonium chloride | 2.5 M, 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-2-methyl-5-phenyl-5H-[1,2,4]-triazolo[5,1-a]isoindol-5-amine | 1.5 g | ClC=1C=C2C(N3C(C2=CC1)=NC(=N3)C)(N)C3=CC=CC=C3 | C16H13ClN4
